US06340778B1
Preparation of 2-propylheptenal
The nitrogen present in the crude product leaves the gas separator 8 via line 9 together with an azeotrope containing water, n-pentanal and the products. The stream was cooled (cooler and separator are not shown in FIG. 1). At the separator an organic phase and an aqueous phase were formed. The organic phase was passed to the product separator 11. The aqueous phase was discarded.

reactant | n-pentanal | C(CCCC)=O | C5H10O
solvent | water | O | H2O
product | 2-propylheptenal | C(CC)C(C=O)=CCCCC | C10H18O
